US05155110
2-[(2,3-dimethylphenyl)amino-N-hydroxy-N-methylbenzamide
1,1'-Carbonyl-diimidazole (5.35 g; 0.033 mol) is added to a solution of mefanamic acid (7.2% g; 0.03 mol) in dry DMF (100 ml). The solution is stirred at 24° C. for 20 hours and then briefly warmed to 50° C. N-Methylhydroxylamine hydrochloride (2.7 g; 0.032 mo) is added to the cooled solution at 24° C. and stirred for two days. The reaction mixture is then evaporated to dryness and the residue is taken up in CH2Cl2, washed with water, and dried over sodium sulfate and evaporated. The residue is flash chromatographed through silica gel and eluted with n-hexane-CH2Cl2 -EtOAc (2:1:1) yielding a crude product which is rechromatographed through silica gel and eluted with n-hexane-CH2Cl2 -EtOAc (4:5:1). The product is recrystallized from n-pentane to give white crystals. Yield 1.5 g (18.5%); mp 70°-71° C.

reactant | 1,1'-Carbonyl-diimidazole | 0.033 mol, 5.35 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | mefanamic acid | 0.03 mol | CC1=C(C(=CC=C1)NC2=CC=CC=C2C(=O)O)C | C15H15NO2
reactant | N-Methylhydroxylamine hydrochloride | 2.7 g | Cl.CNO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | (2,3-dimethylphenyl)amino-N-hydroxy-N-methylbenzamide | CC1=C(C=CC=C1C)NC1=C(C(=O)N(C)O)C=CC=C1 | C16H18N2O2
